US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 6-methylsulfonylamino-2-oxindole to give 0.4 g of N-[3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-methanesulfonamide as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 6-methylsulfonylamino-2-oxindole | CS(=O)(=O)NC1=CC=C2CC(NC2=C1)=O | C9H10N2O3S
product | N-[3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-methanesulfonamide | 0.4 g | C(C)(C)C=1C=C(C=C2C(NC3=CC(=CC=C23)NS(=O)(=O)C)=O)C=C(C1OC)C(C)C | C23H28N2O4S
